US09210927B2
Preparation of 2-(4-(1H-1,2,4-triazol-1-yl)phenyl)-4-(3,5-dichlorophenyl)-5,5,5-trifluoropentan-2-ol (DI77)
To a solution of 1-(4-(1H-1,2,4-triazol-1-yl)phenyl)-3-(3,5-dichlorophenyl)-4,4,4-trifluorobutan-1-one (300 mg, 0.726 mmol) in THF cooled to 0° C. was added methylmagnesium bromide (450 mg, 5 mmol) drop wise. The reaction was stirred for 3 h at 0° C., then the reaction mixture was quenched with sat aq NH4Cl solution and extracted with ethyl acetate. The combined EtOAc layer was washed with water and brine, dried over Na2SO4 and concentrated under reduced pressure. Purification by column chromatography (SiO2, 100-200 mesh; 20%-25% EtOAc in petroleum ether) afforded the title compound as a solid (100 mg, 32%): 1H NMR (400 MHz, CDCl3) δ two diastereoisomers 8.58 (s, 1H, minor), 8.48 (s, 1H, major), 8.13 (s, 1H, minor), 8.09 (s, 1H, major), 7.70 (d, J=9.0 Hz, 2H, minor), 7.53 (d, J=9.0 Hz, 2H, minor), 7.40 (d, J=9.0 Hz, 2H, major), 7.31 (m, 1H, minor), 7.27 (d, J=9.0 Hz, 2H, major), 7.20 (m, 2H, minor), 7.01 (m, 1H, major), 6.75 (m, 2H, major), 350 (m, 1H), 2.50 (m, 2H), 1.56 (s, 3H, major), 1.54 (s, 3H, minor); ESIMS m/z 430.05 ([M+H]+).

reactant | 1-(4-(1H-1,2,4-triazol-1-yl)phenyl)-3-(3,5-dichlorophenyl)-4,4,4-trifluorobutan-1-one | 0.726 mmol, 300 mg | N1(N=CN=C1)C1=CC=C(C=C1)C(CC(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)=O | C18H12Cl2F3N3O
reactant | methylmagnesium bromide | 5 mmol, 450 mg | C[Mg]Br
solvent | THF | C1CCOC1 | C4H8O
product | 2-(4-(1H-1,2,4-triazol-1-yl)phenyl)-4-(3,5-dichlorophenyl)-5,5,5-trifluoropentan-2-ol | 100 mg, 32% | N1(N=CN=C1)C1=CC=C(C=C1)C(C)(CC(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)O | C19H16Cl2F3N3O
